US08222424B2
1-Bromo-4-isobutoxy-benzene
4-Bromo-phenol (2 g, 11.6 mmol) is dissolved in acetone (40 mL). Potassium carbonate (8 g, 38.4 mmol) is then added followed by isobutyl bromide (4 g, 29.2 mmol). The reaction is heated to reflux for four days, refilling solvent as necessary. The reaction mixture is diluted with water and extracted with ether, the organic layer is separated and concentrated in vacuo. The residue is dissolved in hexane dried with magnesium sulfate, and filtered through a plug of silica gel. The solvent is removed in vacuo to afford 1.6 g (60% yield) of the title compound as a colorless non-viscous oil. 1H NMR (CDCl3) δ 1.01 (d, 6H, J=6.56 Hz), 2.05-2.08 (m, 1H), 3.67 (d, 2H, J=6.57 Hz), 6.77 (d, 2H, J=9.09 Hz), 7.36 (d, 2H, J=9.09 Hz).

reactant | 4-Bromo-phenol | 11.6 mmol, 2 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | Potassium carbonate | 38.4 mmol, 8 g | C([O-])([O-])=O.[K+].[K+]
reactant | isobutyl bromide | 29.2 mmol, 4 g | C(C(C)C)Br | C4H9Br
solvent | acetone | 40 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 1-Bromo-4-isobutoxy-benzene | 1.6 g, 60% yield | BrC1=CC=C(C=C1)OCC(C)C | C10H13BrO
